US07750002B2
Amine preparation: To a solution of 1-BOC-3-piperidine carboxylic acid (3.0 g) in DMF (25 mL) was added potassium carbonate (3.62 g) followed by iodomethane (4.07 mL). After 2.5 h the reaction was diluted with water and extracted into diethyl ether. The organic layer was washed with brine, separated and dried (MgSO4). The solvent was evaporated to give piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (2.98 g).

reactant | 1-BOC-3-piperidine carboxylic acid | 3.0 g | C(=O)(OC(C)(C)C)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | potassium carbonate | 3.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.07 mL | IC | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 2.98 g | COC(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C12H21NO4
